US06664264B2
A round bottom flask was charged with a magnetic stir bar, N4-[5-(methylthio)pentyl]quinoline-3,4-diamine (3.56 g, 12.93 mmol) and anhydrous pyridine (52 mL) under a nitrogen atmosphere. The resulting homogeneous solution was cooled to 0° C. in an ice-water bath. To the cooled solution was added neat 3-methoxypropionyl chloride (2.74 g, 22.36 mmol). After addition of the acid chloride, the reaction was heated to reflux for 14 hours at which time the acylated intermediate was completely consumed. The solution was cooled and then partitioned between chloroform and saturated aqueous ammonium chloride. The layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to afford 2-(2-methoxyethyl)-1-[5-(methylthio)pentyl]-1H-imidazo[4,5-c]quinoline (3.0 g, 8.73 mmol) which was isolated as a brown oil and used without further purification.

reactant | N4-[5-(methylthio)pentyl]quinoline-3,4-diamine | 12.93 mmol, 3.56 g | CSCCCCCNC1=C(C=NC2=CC=CC=C12)N | C15H21N3S
reactant | 3-methoxypropionyl chloride | 22.36 mmol, 2.74 g | COCCC(=O)Cl | C4H7ClO2
solvent | pyridine | 52 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-methoxyethyl)-1-[5-(methylthio)pentyl]-1H-imidazo[4,5-c]quinoline | 8.73 mmol, 3.0 g | COCCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCSC | C19H25N3OS
